US07790931B2
From the toluene extract, a small amount of a sample was withdrawn, and it was subjected to GC analysis. As a result of the analysis, a peak of the tetrafluoroterephthalonitrile as a raw material was below the detection limit, the amount of tetrafluoroterephthalaldehyde was 92.0 mol %, the amount of 2,3,5,6-tetrafluorobenzene was 0.94 mol %, and the amount of 2,3,5,6-tetrafluorobenzonitrile was 0.79 mol %. On the other hand, the aqueous phase was neutralized and then subjected to GC analysis. As a result of the analysis, presence of 3.39 mol % of 2,3,5,6-tetrafluorobenzylamine was confirmed. The results are set forth in Table 1.

reactant | tetrafluoroterephthalonitrile | FC1=C(C(=C(C(=C1C#N)F)F)C#N)F | C8F4N2
reactant | tetrafluoroterephthalaldehyde | FC1=C(C(=C(C(=C1C=O)F)F)C=O)F | C8H2F4O2
reactant | 2,3,5,6-tetrafluorobenzene | FC1=CC(=C(C=C1F)F)F | C6H2F4
reactant | 2,3,5,6-tetrafluorobenzonitrile | FC1=C(C#N)C(=C(C=C1F)F)F | C7HF4N
product | 2,3,5,6-tetrafluorobenzylamine | FC1=C(CN)C(=C(C=C1F)F)F | C7H5F4N
